US09062028B2
Step E. tert-Butyl 3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzylcarbamate
The title compound was prepared using a procedure analogous to 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one except that 4-(hydroxymethyl)phenylboronic acid was replaced with tert-butyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzylcarbamate. LCMS, [M+H]+=609.4.

reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC=C(C=C2)CO)C=CC=C1C | C28H31NO3
reactant | 4-(hydroxymethyl)phenylboronic acid | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | tert-butyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzylcarbamate | BrC=1C=NN(C1)CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C16H20BrN3O2
product | tert-Butyl 3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C37H44N4O4
